US08431563B2
(2S)-1,1,1-trifluoro-2-(4-(4-(1,3-thiazol-2-ylsulfonyl)-1-piperazinyl)phenyl)-2-propanol trifluoroacetate;
(2R)-1,1,1-trifluoro-2-(4-(4-(1,3-thiazol-2-ylsulfonyl)-1-piperazinyl)phenyl)-2-propanol. 1H NMR (400 MHz, CDCl3) δ 8.03 (d, J=3.1 Hz, 1H), 7.67 (d, J=3.1 Hz, 1H), 7.48 (d, J=8.8 Hz, 2H), 6.94 (d, J=9.0 Hz, 2H), 3.48-3.58 (m, 4H), 3.27-3.38 (m, 4H), 1.76 (s, 3H). m/z (ESI, +ve ion) 421.8 (M+H)+. GK-GKRP EC50 (NADPH-coupled)=1.18 μM; GK-GKRP EC50 (LC MS/MS)=4.75 μM.

reactant | (2R)-1,1,1-trifluoro-2-(4-(4-(1,3-thiazol-2-ylsulfonyl)-1-piperazinyl)phenyl)-2-propanol | FC([C@](C)(O)C1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)C=1SC=CN1)(F)F | C16H18F3N3O3S2
reactant | NADPH | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)OP(=O)(O)O)N | C21H30N7O17P3
product | (2S)-1,1,1-trifluoro-2-(4-(4-(1,3-thiazol-2-ylsulfonyl)-1-piperazinyl)phenyl)-2-propanol trifluoroacetate | FC(C(=O)O)(F)F.FC([C@@](C)(O)C1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)C=1SC=CN1)(F)F | InChI=1S/C16H18F3N3O3S2.C2HF3O2/c1-15(23,16(17,18)19)12-2-4-13(5-3-12)21-7-9-22(10-8-21)27(24,25)14-20-6-11-26-14;3-2(4,5)1(6)7/h2-6,11,23H,7-10H2,1H3;(H,6,7)/t15-;/m0./s1
